US04013678
A solution of cysteamine hydrochloride (5.68 g) in water (20 ml) was added to a suspension of N-cyano-N,S-dimethyl-isothiourea (6.46 g) in ethanol (100 ml). A solution of sodium hydroxide (4.0 g) in water (20 ml) was added to the mixture and the suspension was heated under reflux for 1 hour. The resulting clear solution was concentrated to remove ethanol, a little more water was added and the alkaline aqueous solution was extracted with ethyl acetate. The aqueous solution was adjusted to pH4 with hydrochloric acid and extracted with ethyl acetate. This latter organic extract was dried and evaporated to give N-cyano-N'-methyl-N"-(2-mercaptoethyl)guanidine (6.12 g) as a colourless oil. In order to characterise this product a solution of 2,4-dinitrochlorobenzene (7.7 g) in 95% ethanol (50 ml) was added to a solution of N-cyano-N'-methyl-N"-(2-mercaptoethyl)-guanidine (6.0 g) in 95% ethanol. The mixture was refluxed for 1 hour and cooled. The resulting crystalline solid (7.73 g) was collected and was triturated with a large volume of ether and was recrystallised from acetonitrile to afford N-cyano-N'-methyl-N"-[S-(2,4-dinitrophenyl)-2-mercaptoethyl]-guanidine, m.p. 210°-211° C.

reactant | 2,4-dinitrochlorobenzene | 7.7 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])Cl | C6H3ClN2O4
reactant | N-cyano-N'-methyl-N"-(2-mercaptoethyl)-guanidine | 6.0 g | C(#N)NC(=NCCS)NC | C5H10N4S
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-cyano-N'-methyl-N"-[S-(2,4-dinitrophenyl)-2-mercaptoethyl]-guanidine | C(#N)NC(=NCCSC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])NC | C11H12N6O4S
